US08106232B2
(S)-4-((2S,3S)-7-Carbamoyl-1,1-diethyl-3-methoxy-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-2-cyclohexylmethyl-butyric acid methyl ester
(S)-2-cyclohexylmethyl-4-oxo-butyric acid methyl ester (822 mg, 3.38 mmol), (6S,7S)-7-amino-8,8-diethyl-6-methoxy-5,6,7,8-tetrahydronaphthalene-2-carboxylic acid amide hydrochloride (1.01 g, 3.23 mmol) and triethylamine (326 mg, 3.23 mmol) were dissolved in dichloromethane (15 mL) and methanol (10 mL). Sodium triacetoxyborohydride (1.03 g, 4.85 mmol) was added. Over 3 h, additional sodium triacetoxyborohydride (900 mg, 4.2 mol) and (S)-2-cyclohexylmethyl-4-oxo-butyric acid methyl ester (550 mg, 2.6 mmol) were added in two portions, and the reaction mixture was stirred for 1 h after the last addition. Saturated sodium bicarbonate (60 mL) was added, and the reaction mixture was extracted with dichloromethane (4×50 mL). The organic layer was dried with Na2SO4 and concentrated. The resulting oil was dissolved in methanol (50 mL) and concentrated. The crude product was purified by preparative HPLC. Fractions containing pure product were pooled and the acetonitrile was removed at reduced pressure. Sodium carbonate (1.3 g, 12.3 mmol) was added and the product extracted into dichloromethane (3×200 mL). An additional portion of sodium sulfate (15 g, 140 mmol) was added to the aqueous layer which was extracted with dichloromethane (3×200 mL). The organic extracts were combined, dried with Na2SO4 and concentrated to give the title compound as the free base (1.16 g, 76% yield).

reactant | (S)-2-cyclohexylmethyl-4-oxo-butyric acid methyl ester | 3.38 mmol, 822 mg | COC([C@H](CC=O)CC1CCCCC1)=O | C12H20O3
reactant | (6S,7S)-7-amino-8,8-diethyl-6-methoxy-5,6,7,8-tetrahydronaphthalene-2-carboxylic acid amide hydrochloride | 3.23 mmol, 1.01 g | Cl.N[C@@H]1[C@H](CC=2C=CC(=CC2C1(CC)CC)C(=O)N)OC
reactant | triethylamine | 3.23 mmol, 326 mg | C(C)N(CC)CC | C6H15N
reactant | Sodium triacetoxyborohydride | 4.85 mmol, 1.03 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 4.2 mol, 900 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (S)-2-cyclohexylmethyl-4-oxo-butyric acid methyl ester | 2.6 mmol, 550 mg | COC([C@H](CC=O)CC1CCCCC1)=O | C12H20O3
reactant | sodium bicarbonate | 60 mL | C([O-])(O)=O.[Na+]
reactant | Sodium carbonate | 12.3 mmol, 1.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium sulfate | 140 mmol, 15 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | methanol | 10 mL | CO | CH4O
product | (S)-4-((2S,3S)-7-Carbamoyl-1,1-diethyl-3-methoxy-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-2-cyclohexylmethyl-butyric acid methyl ester | COC([C@H](CCN[C@H]1C(C2=CC(=CC=C2C[C@@H]1OC)C(N)=O)(CC)CC)CC1CCCCC1)=O | C28H44N2O4
